US07981886B2
6-{[trans-4-(thiazolo[5,4-b]pyridine-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]thiazin-3-one
Using thiazolo[5,4-b]pyridine (10 mmol; Synthesis (1974), 120), [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester (5 mmol) and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde (0.38 mmol) according to the same protocol as that described for example 1, steps 1.a to 1.c, the title compound was obtained as its hydrochloride salt (20 mg).

reactant | thiazolo[5,4-b]pyridine | 10 mmol | N1=CSC2=NC=CC=C21 | C6H4N2S
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 5 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde | 0.38 mmol | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
product | 6-{[trans-4-(thiazolo[5,4-b]pyridine-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]thiazin-3-one | N1=C(SC2=NC=CC=C21)C(=O)[C@@H]2CC[C@H](CC2)NCC=2C=CC1=C(NC(CS1)=O)C2 | C22H22N4O2S2
